Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / walnut
 
Attending: ___.
 
Chief Complaint:
anemia, dyspnea, fatigue
 
Major Surgical or Invasive Procedure:
Peritoneal dialysis
 
History of Present Illness:
___ year old woman with history of polycystic kidney disease on 
peritoneal dialysis since ___, presented to ___ clinic with 
dyspea on exertion and fatigue for 2 weeks, sent in from ___ 
clinic for Hgb 5.4. Patient states that for the past two weeks 
she has had progressive shortness of breath and fatigue. She has 
been falling asleep at her desk at work and needing to take naps 
before dinner. Has decreased appetite. She had low grade temp to 
99 and ___ yesterday. Also notes cough and nasal congestion 
with clear and bloody nasal mucous production. Denies any 
bleeding in stool or urine. Did note red and pink fluid in PD 
catheter last week, which has now turned clear. Seen at ___ 
clinic and routine labs showed Hgb 5.4 and wbc 16.2 and she was 
transferred to the ED.  
 
In the ED, initial vitals were: 99.3 103 172/90 21 98% RA  
- Labs in ED were notable for: repeat CBC of wbc 14.4, H/H 
7.9/25.3, plt 446. Na 136, K 4.8, Cl 94, Bicarb 26, BUN 78, Cr 
15, glucose 135.  
- Peritoneal fluid with wbc 2, rbc 12  
- UA with 4 wbc, 10 rbc, 100 proteins, neg leuk and nitr  
- CXR no acute cardiopulmonary process  
- guaiac positive  
- Renal consulted, felt no need for PD overnight. No signs of 
peritonitis. Recommended getting Renal US.  
- Vitals prior to transfer: 98.1, 86, 147/90, 16, 95% RA  
On the floor, vitals stable. Patient annoyed she has been in the 
ED all night. Denies bleeding from rectum. Says that baseline 
Hgb ___.  

 
Past Medical History:
Polycystic kidney disease  
constipation  
Tonsillectomy  
 
Social History:
___
Family History:
Family history of kidney disease and HTN.
 
Physical Exam:
ON ADMISSION:
Vitals: 98.4, 148/87, 87, 18, 97RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, slightly distended, bilateral kidneys palpable 
anteriorly. PD catheter in LLQ without erythema or pus. 
Hyperactive bowel sounds.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, moving all extremities, gait deferred.  

ON DISCHARGE
Vitals: 98.4, 148/87, 87, 18, 97RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple  CV: Regular rate and rhythm, normal S1 + S2, no 
murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, slightly distended, bilateral kidneys palpable 
anteriorly. PD catheter in LLQ without erythema or pus. 
Hyperactive bowel sounds.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, moving all extremities, gait deferred.  
 

 
Pertinent Results:
LABS ON ADMISSION
___ 10:15PM BLOOD Glucose-135* UreaN-78* Creat-15.0*# 
Na-136 K-4.8 Cl-94* HCO3-26 AnGap-21*
___ 04:00PM BLOOD Neuts-75.8* Lymphs-11.1* Monos-10.3 
Eos-1.6 Baso-0.2 Im ___ AbsNeut-12.29* AbsLymp-1.80 
AbsMono-1.67* AbsEos-0.26 AbsBaso-0.03
___ 04:00PM BLOOD WBC-16.2*# RBC-1.56*# Hgb-5.4*# 
Hct-16.7*# MCV-107*# MCH-34.6* MCHC-32.3 RDW-13.6 RDWSD-52.4* 
Plt ___

LABS ON DISCHARGE
___ 09:00AM BLOOD Albumin-2.9* Calcium-9.0 Phos-3.8 Mg-2.2 
Iron-PND
___ 09:00AM BLOOD ALT-17 AST-17 LD(LDH)-273* AlkPhos-114* 
TotBili-0.2
___ 09:00AM BLOOD Glucose-79 UreaN-82* Creat-15.9* Na-136 
K-5.4* Cl-95* HCO3-25 AnGap-21*
___ 09:00AM BLOOD WBC-11.7* RBC-2.30* Hgb-7.7* Hct-24.4* 
MCV-106* MCH-33.5* MCHC-31.6* RDW-13.5 RDWSD-51.2* Plt ___

IMAGING
CXR ___: FINDINGS: The lungs are clear without focal 
consolidation. No pleural effusion or pneumothorax is seen. The 
cardiac and mediastinal silhouettes are unremarkable.  
IMPRESSION: No acute cardiopulmonary process.  

Renal US ___: Preliminary  
1. Polycystic kidneys without definite renal abscess.  
2. Right hepatic lobe cyst with internal echoes and septations 
incidentally noted.  

MICROBIOLOGY
Peritoneal fluid culture pending  
Urine culture pending
Blood culture pending

LABS ON DISCHARGE
___ 09:00AM BLOOD WBC-11.7* RBC-2.30* Hgb-7.7* Hct-24.4* 
MCV-106* MCH-33.5* MCHC-31.6* RDW-13.5 RDWSD-51.2* Plt ___
___ 09:00AM BLOOD Glucose-79 UreaN-82* Creat-15.9* Na-136 
K-5.4* Cl-95* HCO3-25 AnGap-21*
___ 09:00AM BLOOD ALT-17 AST-17 LD(LDH)-273* AlkPhos-114* 
TotBili-0.2
___ 09:00AM BLOOD Albumin-2.9* Calcium-9.0 Phos-3.8 Mg-2.2 
Iron-54
___ 09:00AM BLOOD calTIBC-163* VitB12-1196* Ferritn-1153* 
TRF-125*
___ 09:00AM BLOOD TSH-4.___ year old woman with history of polycystic kidney disease on 
peritoneal dialysis since ___, presented to ___ clinic with 
dyspnea on exertion and fatigue, sent in from ___ clinic for 
Hgb 5.4. 

# Anemia of CKD: Hgb at ___ clinic 5.4. On recheck, up to 7.9 
in the ED. No blood given in between checks. Could have been 
spurious value in clinic. Last lab was ___ which was 9.2. 
Hemodynamically stable. No evidence of acute bleeding, although 
did have bloody/pink peritoneal fluid last week after PD was 
clogged. Small rbc in urine. Few rbc in Peritoneal sample. On 
another recheck of H/H: 7.7. As per renal, we transfused one 
unit pRBCs.

# Leukocytosis: Patient with leukocytosis to 16.2 and 
tachycardic to 103 on presentation to the ED, but subsequently 
has had regular rhythms in the ___. Further, leukocytosis was 
downtrending and 11.7 on discharge. Reports low grade fevers at 
home, fatigue, shortness of breath, nasal congestion for 3 days. 
CXR negative for pneumonia. UA without evidence of UTI. 
Peritoneal fluid without leukocytosis. Given constellation of 
symptoms, influenza or other viral syndrome possible. Flu swab 
negative. Other source of infection could be infected cysts on 
kidney however renal ultrasound without evidence of abscess. Abx 
were not administered.

# Dyspnea on exertion, fatigue: Probably secondary to anemia vs 
underlying infection, vs CHF or PE. Wells score is 0 with 
extremely low likelihood of pulmonary embolism. CHF not likely 
in setting of clear lung exam and no appreciable edema of lower 
extremities. JVD was not elevated. 

# Polycystic kidney disease, on PD: Patient with initiation of 
PD in ___. Is being followed at ___ for possible dual renal and 
bone marrow transplant. Dr. ___ is her ___ nephrologist. 
PD was set up for patient and renal was following her throughout 
her stay. 

TRANSITIONAL ISSUES
===================
[ ] More recent iron studies pending at discharge. B12 was also 
sent in setting of macrocytic anemia. 
[ ] Should have follow up CBC done to trend H/H within the next 
two weeks.
[ ] If DOE continues, could obtain outpatient ECHO. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY 
4. Nephrocaps 1 CAP PO DAILY 
5. Cinacalcet 30 mg PO 3X/WEEK (___) 
6. Cinacalcet 60 mg PO 4X/WEEK (___) 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN congestion 
8. Gentamicin 0.1% Cream 1 Appl TP Frequency is Unknown 
9. Lactulose 15 mL PO DAILY:PRN constipation 
10. Velphoro (sucroferric oxyhydroxide) 500 mg oral TID W/MEALS 

 
Discharge Medications:
1. Cinacalcet 30 mg PO 3X/WEEK (___) 
2. Cinacalcet 60 mg PO 4X/WEEK (___) 
3. Docusate Sodium 100 mg PO BID 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN congestion 
5. Gentamicin 0.1% Cream 1 Appl TP QID:PRN apply to affected 
area 
6. Lactulose 15 mL PO DAILY:PRN constipation 
7. Nephrocaps 1 CAP PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY 
9. Ranitidine 150 mg PO DAILY 
10. Velphoro (sucroferric oxyhydroxide) 500 mg oral TID W/MEALS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Leukocytosis
Anemia
End stage renal disease on peritoneal dialysis
Anemia of Unknown etiology

SECONDARY DIAGNOSIS
===================
Polycystic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ for 
low blood counts and fatigue. On repeated testing, your blood 
counts were improved without intervention and stable. You also 
had a white blood cell count, which means you may have a viral 
infection. Your infectious work up to date is negative. We 
recommend close follow up with repeated labs at your kidney 
clinic and with your primary care physician to ensure that your 
blood counts remain stable. 

It was a pleasure taking part in your care.
Your ___ Team
 
Followup Instructions:
___